US05270324
Step 1: 6,7-Difluoro-2-methylquinoline
Crotonaldehyde (226.34 g, 3.23 mol) in 100 mL of 2-butanol was added dropwise to a refluxing solution of 3,4-difluoroaniline (417.27 g, 3.23 mol), p-chloranil (794.65 g, 3.23 mol) and HCl conc. (808 mL) in 5.4 L of 2-butanol. After 2 hours of heating 2.7 L of solvent was removed under vacuum at ca. 60° C. Then 2 L of toluene was added to the reaction mixture followed by removal of 2.5-3 L of solvent until a very pasty solid formed. THF (2 L) was added and the mixture heated 30 min. after which it was cooled to 0° C. The solid was collected and washed with THF until pure by tlc. The solid was then dissolved in aq. K2CO3 /EtOAc and the organic phase separated. The aqueous phase was extracted with EtOAc (2×) and the organic phases combined, dried over MgSO4 and the solvent removed. The product was crystallized in the minimum amount of EtOAc to give 328.08 g (57%) of the title compound.

reactant | Crotonaldehyde | 3.23 mol, 226.34 g | C(\C=C\C)=O | C4H6O
reactant | 3,4-difluoroaniline | 3.23 mol, 417.27 g | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | p-chloranil | 3.23 mol, 794.65 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | HCl | 808 mL | Cl | ClH
solvent | 2-butanol | 100 mL | CC(CC)O | C4H10O
solvent | 2-butanol | 5.4 L | CC(CC)O | C4H10O
solvent | THF | 2 L | C1CCOC1 | C4H8O
product | 6,7-Difluoro-2-methylquinoline | 328.08 g, 57% | FC=1C=C2C=CC(=NC2=CC1F)C | C10H7F2N
